US06696597B2
FIG. 24A shows a synthesis of 8-chlorooctan-1-yl acetate, in which 1,10-diacetoxy-5-decene is cross-metathesized with 1,6-dichloro-3-hexene to yield 8-chloro-5-octen-1-yl acetate, which is reduced to yield 8-chlorooctanyl acetate.

reactant | 8-chlorooctan-1-yl acetate | C(C)(=O)OCCCCCCCCCl | C10H19ClO2
reactant | 1,10-diacetoxy-5-decene | C(C)(=O)OCCCCC=CCCCCOC(C)=O | C14H24O4
reactant | 1,6-dichloro-3-hexene | ClCCC=CCCCl | C6H10Cl2
product | 8-chloro-5-octen-1-yl acetate | C(C)(=O)OCCCCC=CCCCl | C10H17ClO2
